US08975400B2
7-((3-chloro-4,5-difluorobenzyl)oxy)-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one
A mixture of 3-chloro-4,5-difluorobenzoic acid (0.75 g, 3.9 mmol) and di(1H-imidazol-1-yl)methanone (CDI) (0.695 g, 4.28 mmol) in tetrahydrofuran (THF) (10 mL) was stirred under nitrogen at room temperature for 1 h, and then a solution of NaBH4 (0.221 g, 5.84 mmol) in water (2.0 mL) was added dropwise. The reaction mixture was stirred at 10° C. for 16 h, and adjusted to pH=1 with 1 N HCl solution, concentrated to remove solvent and extracted with ethyl acetate. Separated organic part was washed with a solution of NaHCO3 and concentrated. Purification via preparative TLC afforded the title product (0.41 g).

reactant | 3-chloro-4,5-difluorobenzoic acid | 3.9 mmol, 0.75 g | ClC=1C=C(C(=O)O)C=C(C1F)F | C7H3ClF2O2
reactant | di(1H-imidazol-1-yl)methanone | 4.28 mmol, 0.695 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | NaBH4 | 5.84 mmol, 0.221 g | [BH4-].[Na+]
reactant | HCl | 1 N | Cl | ClH
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 2.0 mL | O | H2O
product | 7-((3-chloro-4,5-difluorobenzyl)oxy)-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.41 g | ClC=1C=C(COC=2C=C3N(C(N2)=O)CCN3C)C=C(C1F)F | C14H12ClF2N3O2
